US08629169B2
Preparation 11: Di-tert-butyl (1S,2R,3S,4R,5R,6R)-2-(tert-butoxycarbonylamino)-3-[(4-fluoro-3-methyl-phenyl)sulfanylmethyl]-4-methylsulfonyloxy-bicyclo[3.1.0]hexane-2,6-dicarboxylate
Di-tert-butyl (1S,2R,3S,4R,5R,6R)-2-(tert-butoxycarbonylamino)-3-[(4-fluoro-3-methyl-phenyl)sulfanylmethyl]-4-hydroxy-bicyclo[3.1.0]hexane-2,6-dicarboxylate (4.6 g, 8.10 mmol) in pyridine (60 mL) is cooled to 0° C. To this mixture is added methanesulfonyl chloride (1.88 ml, 24.31 mmol). The mixture is warmed to 40° C. and stirred for 1 hour, and cooled to ambient temperature and allowed to stir for 18 hours. The mixture is concentrated under reduced pressure to give a residue. The residue is partitioned between ethyl acetate and 1N aqueous HCl (2×50 mL). The organic layer is separated, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to give the title compound (5.2 g, 8.05 mmol, 99.4% yield): MS (m/z): 643.6 (M−H).

reactant | Di-tert-butyl (1S,2R,3S,4R,5R,6R)-2-(tert-butoxycarbonylamino)-3-[(4-fluoro-3-methyl-phenyl)sulfanylmethyl]-4-hydroxy-bicyclo[3.1.0]hexane-2,6-dicarboxylate | 8.10 mmol, 4.6 g | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2[C@H]([C@H]1CSC1=CC(=C(C=C1)F)C)O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C29H42FNO7S
reactant | methanesulfonyl chloride | 24.31 mmol, 1.88 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 60 mL | N1=CC=CC=C1 | C5H5N
product | Di-tert-butyl (1S,2R,3S,4R,5R,6R)-2-(tert-butoxycarbonylamino)-3-[(4-fluoro-3-methyl-phenyl)sulfanylmethyl]-4-methylsulfonyloxy-bicyclo[3.1.0]hexane-2,6-dicarboxylate | 8.05 mmol, 5.2 g, 99.4% yield | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2[C@H]([C@H]1CSC1=CC(=C(C=C1)F)C)OS(=O)(=O)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C30H44FNO9S2
